US04631151
The procedure of Example 1 was repeated, except that bis(pentadecafluorooctanoyl)peroxide was changed to di-iso-butyryl peroxide, the amount of benzene was changed to 0.02 mol, the reaction temperature was changed to 46° C., and the reaction time was fixed at 9 hours. Consequently, cumene was obtained in a yield of 0.8%.

reactant | bis(pentadecafluorooctanoyl)peroxide | FC(C(C(C(C(C(C(=O)OOC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)=O)(F)F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C16F30O4
reactant | di-iso-butyryl peroxide | C(C(C)C)(=O)OOC(C(C)C)=O | C8H14O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cumene | yield of 0.8% | C1(=CC=CC=C1)C(C)C | C9H12
